US07192968B2
4-[2-(tert-Butoxycarbonylamino)ethyl]-2-(trans-styryl)oxazole
After hydrazine monohydrate (1.50 ml) was added to a solution of N-[2-[2-(trans-styryl)oxazol-4-yl]-ethyl]phthalimide (6.40 g) in ethanol (150 ml) at room temperature, and the mixture was stirred for 1 hour, hydrazine monohydrate (0.500 ml) was added again at room temperature, and the mixture was stirred for 2 hours. Dichloromethane (150 ml), a saturated solution (150 ml) of sodium hydrogencarbonate and di-tert-butyl dicarbonate (13.4 g) were added to the reaction mixture at room temperature. After stirring for 30 minutes, a water layer was separated and extracted with dichloromethane (50 ml). The resultant organic layers were combined and dried over anhydrous sodium sulfate, and the solvent was then distilled off under reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:1→1:1) to obtain the title compound (5.06 g) as a colorless solid.

reactant | hydrazine monohydrate | 1.50 ml | O.NN
reactant | N-[2-[2-(trans-styryl)oxazol-4-yl]-ethyl]phthalimide | 6.40 g | C(=C\C1=CC=CC=C1)/C=1OC=C(N1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O3
reactant | hydrazine monohydrate | 0.500 ml | O.NN
reactant | sodium hydrogencarbonate | 150 ml | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 13.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | Dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-[2-(tert-Butoxycarbonylamino)ethyl]-2-(trans-styryl)oxazole | 5.06 g | C(C)(C)(C)OC(=O)NCCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C18H22N2O3
